US04582837
8-(2'-Methoxy-4'-trifluoromethanesulfonyloxy-phenyl)-purine
Prepared analogously to Example 1 from 8-(2'-methoxy-4'-hydroxy-phenyl)-purine and trifluoromethanesulfonic acid anhydride.

reactant | 8-(2'-methoxy-4'-hydroxy-phenyl)-purine | COC1=C(C=CC(=C1)O)C1=NC2=NC=NC=C2N1 | C12H10N4O2
reactant | trifluoromethanesulfonic acid anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | 8-(2'-Methoxy-4'-trifluoromethanesulfonyloxy-phenyl)-purine | COC1=C(C=CC(=C1)OS(=O)(=O)C(F)(F)F)C1=NC2=NC=NC=C2N1 | C13H9F3N4O4S
